US05827865
3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-napthyloxy)propanoic acid
The title compound, mp 162°-4° C. (methanol), was prepared from methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-napthyloxy)propanoate in a manner analogous to that described for Example 2.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-napthyloxy)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)OC2=CC1=CC=CC=C1C=C2 | C30H28N2O5
solvent | methanol | CO | CH4O
product | 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-napthyloxy)propanoic acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)OC2=CC1=CC=CC=C1C=C2 | C29H26N2O5
